US04183856
Using 3-amino-5-t-butylisoxazole and N-methoxy-N-methylcarbamoyl chloride, the reaction is run as in Example 1, whereby 1-methoxy-1-methyl-3-(5-t-butyl-3-isoxazolyl)urea is obtained. Yield is 94.7%. Melting point is 106.0° to 107.0° C.

reactant | 3-amino-5-t-butylisoxazole | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | N-methoxy-N-methylcarbamoyl chloride | CON(C(=O)Cl)C | C3H6ClNO2
product | 1-methoxy-1-methyl-3-(5-t-butyl-3-isoxazolyl)urea | Yield is 94.7% | CON(C(=O)NC1=NOC(=C1)C(C)(C)C)C | C10H17N3O3
